US05869501
N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2,6-difluorobenzamide
Starting compound: 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile, 2,6-difluorobenzoyl chloride.

reactant | 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | 2,6-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
product | N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2,6-difluorobenzamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(C1=C(C=CC=C1F)F)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C35H33F2N3O4
